US04570007
B(3) 2-Azido-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol
A solution of 14.71 g of 4-azido-1,2,3-butanetriol in 30 ml of acetone is combined with 13.95 g of 2,2-dimethoxypropane, as well as 0.1 ml of concentrated sulfuric acid. The mixture is stirred overnight at room temperature, neutralized with 2N sodium hydroxide solution, and concentrated to dryness under vacuum. The residue is distilled with a water-jet aspirator. 2-Azido-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol passes over as a colorless oil at 130°-132° C./13 mm. Yield: 11.79 g (63% of theory).

reactant | 4-azido-1,2,3-butanetriol | 14.71 g | N(=[N+]=[N-])CC(C(CO)O)O | C4H9N3O3
reactant | 2,2-dimethoxypropane | 13.95 g | COC(C)(C)OC | C5H12O2
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-Azido-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol | N(=[N+]=[N-])CC(O)C1OC(OC1)(C)C | C7H13N3O3
